US04481199
4-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-acetamide
A solution of 4-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-acetonitrile dioxalate (0.05 g) in 35% hydrochloric acid (1 ml) was heated at 40° C. for 3 h. The mixture was basified with sodium hydroxide and extracted with chloroform. Evaporation of the organic solution gave the title compound (0.01 g) as a white powder.

reactant | 4-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-acetonitrile dioxalate | 0.05 g | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.CN1C(=NN=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CC#N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 4-Methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-4H-1,2,4-triazole-3-acetamide | 0.01 g | CN1C(=NN=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CC(=O)N | C20H30N6O2
